US04367238
2-[2-Methoxy-3-(4-chlorophenoxy)phenyl]acetonitrile (11.8 g), glacial acetic acid (50 ml) and conc. hydrochloric acid (25 ml) were treated in a similar manner to that of Example 5-(4) to give oily 2-[2-methoxy-3-(4-chlorophenoxy)phenyl]acetic acid (6.7 g).

reactant | 2-[2-Methoxy-3-(4-chlorophenoxy)phenyl]acetonitrile | 11.8 g | COC1=C(C=CC=C1OC1=CC=C(C=C1)Cl)CC#N | C15H12ClNO2
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-[2-methoxy-3-(4-chlorophenoxy)phenyl]acetic acid | 6.7 g | COC1=C(C=CC=C1OC1=CC=C(C=C1)Cl)CC(=O)O | C15H13ClO4
